US05698575
Example 22: Preparation of 2-pyrazolyl-7-methoxychromone
A mixture of 7-methoxy-3-iodochromone (151 mg) prepared in Example. 21, pyrazole (136 mg), potassium carbonate (1382 mg), and dimethylformamide (15 ml) was reacted at 80° C. for 2 hours with stirring. The reaction mixture was added to ice water and extracted from chloroform. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purifiedby the silica gel column chromatography, and recrystallized from benzene/hexane to give the titled compound (90.8 mg; yield=75.0%) as light yellow needle crystals. Melting point: 170°-171° C. 1H-NMR(CDCl3, δ ppm): 3.93 (s, CH3O), 6.56 (hr. s, H3), 8.13 (d, H5), 7.00 (d, H6), 6.94 (d, H8), 6.81 (s, H3'), 7.83 (s, H4'), 8.18 (d, H5').

reactant | 7-methoxy-3-iodochromone | 151 mg | COC1=CC=C2C(C(=COC2=C1)I)=O | C10H7IO3
reactant | pyrazole | 136 mg | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 1382 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-pyrazolyl-7-methoxychromone | 90.8 mg, yield=75.0% | N1N=C(C=C1)C=1OC2=CC(=CC=C2C(C1)=O)OC | C13H10N2O3
